US04483990
Preparation of methyl 1,2,5,6-tetrahydro-1-methylnicotinate (Arecoline)
Methyl 1,2,5,6-tetrahydro-1-methylnicotinate hydrobromide (Arecoline HBr) weighing 350 g, was dissolved in 600 ml of water. To this solution 50 g of sodium chloride was added and allowed to dissolve. To this solution approximately 400 ml of saturated sodium carbonate solution was added and the mixture extracted four times with (4×) 500 ml of ether. The combined ether extracts were dried over sodium sulfate and the ether evaporated under reduced pressure using a 40° water bath. The methyl 1,2,5,6-tetrahydro-1-methylnicotinate was distilled under aspirator vacuum to give 188 g (82%) of a pale yellow liquid with b.p. 85°/20 mm (pressure approximate). The free base was stored in a freezer.

reactant | Methyl 1,2,5,6-tetrahydro-1-methylnicotinate hydrobromide | Br.CN1CC(C(=O)OC)=CCC1
reactant | sodium chloride | 50 g | [Cl-].[Na+]
reactant | sodium carbonate | approximately 400 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 600 ml | O | H2O
product | methyl 1,2,5,6-tetrahydro-1-methylnicotinate | 188 g, 82% | CN1CC(C(=O)OC)=CCC1 | C8H13NO2
